US03935218
Two grams of 1-(p-chlorophenyl)-1,2,3,4,5,6-hexahydro-2,5-benzodiazocine dihydrochloride are dissolved in 50 ml. of water. A solution of 1 g. of potassium permanganate in 50 ml. of water is added dropwise over a period of one-half hour. The mixture is filtered to remove inorganic salts and the filtrate is made basic with sodium carbonate solution. The precipitated solid is separated and washed with water. On recrystallization from ethanol there is obtained 5-(4-chlorophenyl)-2,3-dihydro-5H-imidazo [2,1-a]isoindol-5-ol which has the same physical characteristics as the identical compound of Example X.

reactant | 1-(p-chlorophenyl)-1,2,3,4,5,6-hexahydro-2,5-benzodiazocine dihydrochloride | Two grams | Cl.Cl.ClC1=CC=C(C=C1)C1NCCNCC2=C1C=CC=C2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | O | H2O
product | 5-(4-chlorophenyl)-2,3-dihydro-5H-imidazo [2,1-a]isoindol-5-ol | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NCC2)O | C16H13ClN2O
